US08247431B2
Step 6: Preparation of 5-methyl-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid
5-Methyl-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester (3.78 g) is dissolved in 200 mL of methanol/water (3:1 mixture) and treated with lithium hydroxide hydrate (1.06 g) at room temperature. After reaction completion, the mixture is poured into ethyl acetate and 2N hydrochloric acid, the organic phase is washed 3× with water, dried over sodium sulfate, filtered and concentrated in vacuum. The residue is triturated with a small amount of hexane. Filtration gives 3.50 g of the title compound of the formula

reactant | 5-Methyl-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 3.78 g | COC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)C)[N+](=O)[O-] | C13H9F3N2O4
reactant | lithium hydroxide hydrate | 1.06 g | O.[OH-].[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol water | 200 mL | CO.O
product | 5-methyl-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid | 3.50 g | CC1=C2C=CC(=NC2=CC(=C1[N+](=O)[O-])C(=O)O)C(F)(F)F | C12H7F3N2O4
